US07538112B2
Step 2: Ethyl 8-(benzyloxy)-6-[(1,1-dioxido-1,2-thiazinan-2-yl)acetyl]-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate
A mixture of 1,2-thiazinane 1,1-dioxide (70 mg, 0.51 mmol) and sodium hydride (0.51 mmol) in anhydrous DMF (2 mL) was stirred at room temperature for 30 minutes. The mixture was treated with a solution of ethyl 6-(bromoacetyl)-8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate (0.23 g, 0.51 mmol) in DMF. The reaction mixture was stirred at room temperature overnight and concentrated under vacuum. The residue was partitioned between ethyl acetate and saturated aqueous ammonium chloride. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 20 to 100% ethyl acetate in hexane gradient to afford the title compound.

reactant | 1,2-thiazinane 1,1-dioxide | 0.51 mmol, 70 mg | S1(NCCCC1)(=O)=O | C4H9NO2S
reactant | sodium hydride | 0.51 mmol | [H-].[Na+]
reactant | ethyl 6-(bromoacetyl)-8-(benzyloxy)-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate | 0.51 mmol, 0.23 g | BrCC(=O)C1=C(C(=C2N1CCN(C2=O)C)OCC2=CC=CC=C2)C(=O)OCC | C20H21BrN2O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 8-(benzyloxy)-6-[(1,1-dioxido-1,2-thiazinan-2-yl)acetyl]-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2)C)=O)C(CN2S(CCCC2)(=O)=O)=O)C(=O)OCC | C24H29N3O7S
